
.SUBCKT  amp_fcasc2_cutoff   vcc   gnd   in   m2b   m3b   m4b  m5b  out n2 n2left

M1   n1    n2    gnd   gnd   ntft    W=50u  L=10u
M2   n4    m2b   gnd   gnd   ntft    W=10u  L=10u
M3   n1    m3b   n4    vcc   ptft    W=20u  L=10u
M4   vcc   m4b   n1    vcc   ptft    W=20u  L=10u

.PARAM r5val=10MEG
R5   n4   n3  r5val
Mcutoff  n3  m5b  n2left  gnd  ntft  W=6u  L=6u


Vao  n3  out  0

.PARAM VC1=0.1p
.PARAM VC2=0.5p

C1   n3    gnd   VC1
C2   in    n2left    VC2


.ENDS amp_fcasc2_cutoff


