

****** HEADER ******
.option INFODEV=$DEVFILE
.option NOWARN=252  * warning about self-connected objects
.option NOWARN=706  * warning about superceded param values in subckt

.INCLUDE modelcards.mc

Vvcc  vcc 0  8
Vgnd  gnd 0  0

.AC  DEC 150  0.1  10MEG
$SKIPSTEP .STEP PARAM m4bval  0    7  0.25
$SKIPSTEP .STEP PARAM m2bval  0    4  0.1
*$SKIPSTEP .STEP PARAM m4bval  2    7  1
*$SKIPSTEP .STEP PARAM m2bval  0.5  4  0.5
****** HEADER ******


*#INODE st1in
*#NUMSTAGES 1


*$PBLOCK


Xvin  st1in   inDC 0  probe_node  DCval=2  *#TFTNOISEGATE ampin  Xfcasc1.n2left
*#PRINTNODEAC Xfcasc1.n2
Xm2b  st1m2b  st1m2bDC 0 probe_node  DCval=m2bval
Xm3b  st1m3b  st1m3bDC 0 probe_node  DCval=0.75
Xm4b  st1m4b  st1m4bDC 0 probe_node  DCval=m4bval
Xm5b  st1m5b  st1m5bDC 0 probe_node  DCval=0
Xm6b  st1m6b  st1m6bDC 0 probe_node  DCval=0

Cdet  st1in   ampin  $DETCAP
Rdet  ampin   0      100G
Xm1b  Xfcasc1.n2left  st1m1bDC Xfcasc1.n2  probe_node  DCval=0  *#TFTNOISEGATE Xfcasc1.n2  Xfcasc1.n2left
Xfcasc1  vcc  gnd  ampin          st1m2b  st1m3b  st1m4b  st1m5b  st1m6b  amp_fcasc2_2t
*#PRINTNODEAC ampin

*Vout  Xfcasc1.out  out  0


* Diff pair input load
Cdp   Xfcasc1.out  out  500f
*Rdiv1  out  gnd  100MEG
Moff  out   gnd    mid  ntft   W=6u  L=6u
Rdiv1 vcc          mid  6MEG
Rdiv2 mid          gnd  2MEG



.PRINTFILE AC
+ im(Vvcc)
+ im(Vgnd)
+ vr(out)
+ vi(out)
*$PRINTFILENODES
*+ vr(Xfcasc1.in)
*+ vi(Xfcasc1.in)
*+ vr(Xfcasc1.N2)
*+ vi(Xfcasc1.N2)
*+ vr(Xfcasc1.M2B)
*+ vi(Xfcasc1.M2B)
*+ vr(Xfcasc1.M3B)
*+ vi(Xfcasc1.M3B)
*+ vr(Xfcasc1.M4B)
*+ vi(Xfcasc1.M4B)
*+ vr(Xfcasc1.M5B)
*+ vi(Xfcasc1.M5B)
*+ gm(Xfcasc1.M1)
*+ gm(Xfcasc1.M2)
*+ gm(Xfcasc1.M3)
*+ gm(Xfcasc1.M4)
*+ gm(Xfcasc1.M5)
*+ vr(st1in)
*+ vi(st1in)
*+ vr(st1m2b)
*+ vi(st1m2b)
*+ vr(st1m3b)
*+ vi(st1m3b)
*+ vr(st1m4b)
*+ vi(st1m4b)
*+ vr(st1m5b)
*+ vi(st1m5b)
*+ vm(m2bDC)
*+ vm(m3bDC)
*+ vm(m4bDC)
*+ vm(m5bDC)
*+ vr(Xfcasc1.out)
*+ vi(Xfcasc1.out)
+ FILE="${DATFILE}"
 


